US06780996B2
Following the procedure used to prepare Example 15, 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile (102 mg, 0.21 mmol) and 2-methoxyethanol provides 86 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-(2-methoxyethoxy)-6-(2-morpholin-4-ylethoxy)3-quinolinecarbonitrile, mp 158-159° C.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile | 0.21 mmol, 102 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCCN1CCOCC1)F)C#N | C23H21Cl2FN4O3
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-(2-methoxyethoxy)-6-(2-morpholin-4-ylethoxy)3-quinolinecarbonitrile | 86 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCCN1CCOCC1)OCCOC)C#N | C26H28Cl2N4O5
